US03963758
d. Preparation of ethyl 2-[3-(2-benzofuroyl)-phenyl]-propionate
Ethyl 2-[meta-(α-bromo-acetyl)-phenyl]propionate (0.1 mole) is mixed with dry potassium carbonate (0.2 mole), salicylic aldehyde (0.1 mole) and ethanol (200 cc). The mixture is refluxed for 5 hours, with vigorous stirring. The initially yellow reaction medium turns brown during the heating step. The reaction mixture is then allowed to cool and the resulting precipitate is suction filtered. The alcohol is removed in vacuo. The resulting material is taken up into ethyl acetate, after which it is washed to neutral pH, dried and evaporated. The distilled residue gives a thick oil, b.p.0.05 = 210°-220°C. A second distillation gives the pure product (Yield: 25%).

reactant | Ethyl 2-[meta-(α-bromo-acetyl)-phenyl]propionate | 0.1 mole | BrCC(=O)C=1C=C(C=CC1)C(C(=O)OCC)C | C13H15BrO3
reactant | potassium carbonate | 0.2 mole | C([O-])([O-])=O.[K+].[K+]
reactant | salicylic aldehyde | 0.1 mole | C1=CC=C(C(=C1)C=O)O | C7H6O2
solvent | ethanol | 200 cc | C(C)O | C2H6O
product | ethyl 2-[3-(2-benzofuroyl)-phenyl]-propionate | Yield: 25% | O1C(=CC2=C1C=CC=C2)C(=O)C=2C=C(C=CC2)C(C(=O)OCC)C | C20H18O4
